Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Erythromycin Base
 
Attending: ___.
 
Chief Complaint:
fever  

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with history of dementia, CHF, CKD, hypothyroidism, presents 
from ___ with fever and cough. Cough started ___, 
she was given nebulizers. She was also noted to be more 
combative than her baseline. Per EMS, patient is combative at 
baseline, not oriented to person, time or place but more 
combative currently. No history of falls. Per report she uses 2L 
O2 at baseline.  

In the ED initial vitals were: 85 84/68 22 98% Nasal Cannula Tm 
102.8  
- Labs were significant for Cr 2.1 UA: mod blood few bact, flu 
positive, Ht 27  
- Patient was given ceftx, tylenol, 1 l NS  
Vitals prior to transfer were: 100.6 74 114/43 20 97% Nasal 
Cannula  
On the floor she describes throat pain, is not oriented, thinks 
year is ___, she does now know why she is in the hospital and 
is combative, called me a bitch  
Review of Systems:  
per HPI  

 
Past Medical History:
DM  
CAD, MI ___  
CHF  
HLD  
Hypothyroid  
HTN  
OA  
obesity  
Depression  
Anemia of chronic disease  
gout  
dementia  
CKD  

 
Social History:
___
Family History:
No family history of known cardiac or lung disease
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:
============================
Vitals - wt 93.8 kg, Temp 98.2m BP 139/79, HR 810, RR 22, 95% RA
Tmx 100.9 
GENERAL: unwilling to answer questions or participate in exam. 
Wrist restraints in place. Sleepy. Coughs often, productive
CARDIAC: RRR 
LUNG: Diffuse rhonci to auscultation, exam limited by patient 
cooperation  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: 1+ edema in ___ with venous stasis changes
Neuro: CN grossly intact  

PHYSICAL EXAM ON DISCHARGE:
===========================
Vitals - temp. 98.3, BP 128/55, HR 68, RR 20, 99% 2L
wt today of 95.8 kg from 93.8 kg at time of admission
GENERAL: Oriented to place. Does not want to participate in 
history or exam. CARDIAC: RRR 
LUNG: Minimal rhonci anteriorally to ausculation, improved
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: 1+ edema in ___ with venous stasis changes
Neuro: CN grossly intact 

 
Pertinent Results:
LABS ON ADMISSION:
==================
___ 05:00PM BLOOD WBC-8.4 RBC-2.95* Hgb-9.2* Hct-27.7* 
MCV-94 MCH-31.1 MCHC-33.2 RDW-13.6 Plt ___
___ 05:00PM BLOOD ___ PTT-27.9 ___
___ 05:00PM BLOOD Glucose-121* UreaN-79* Creat-2.1* Na-137 
K-4.1 Cl-95* HCO3-30 AnGap-16
___ 05:00PM BLOOD Calcium-8.5 Phos-4.2 Mg-2.9*

___ 06:40PM OTHER BODY FLUID FluAPCR-POSITIVE* 

___ 7:47 pm URINE SOURCE: CATHETER. 
**FINAL REPORT ___
URINE CULTURE (Final ___: GRAM NEGATIVE ROD(S). ___. 

CXR ___:
IMPRESSION:  
No definite acute cardiopulmonary process. 

LABS ON DISCHARGE:
==================
___ 07:15AM BLOOD WBC-5.6 RBC-2.60* Hgb-8.3* Hct-25.3* 
MCV-97 MCH-31.9 MCHC-32.7 RDW-13.5 Plt ___
___ 07:15AM BLOOD Glucose-236* UreaN-65* Creat-1.4* Na-141 
K-4.3 Cl-104 HCO3-28 AnGap-13
___ 07:15AM BLOOD Calcium-7.8* Phos-2.7 Mg-2.9*
 
Brief Hospital Course:
___ with history of dementia, CHF, CKD, hypothyroidism, presents 
from ___ with cough and fevers and is found to have the 
flu.  

#Influenza presenting with cough and fever: 
Patient currently with evidence of cough though CXR without 
evidence of focal process. Patient had evidence of difffuse 
rhonci on exam with 2L oxygen requirement at time of admission. 
Patient noted to be influenza positive. She was started on 
Tamiflu ___ with Q48 hour dosing due to renal function and 
received another dose on ___ (dose on ___ was missed 
due to patient refusal of medications). Final dose of tamiflu 
given on ___. She was also placed on Q6 hour duonebs while 
in the hospital. She required 2L of oxygen by NC while she was 
in the hospital. Oxygen should be weaned down upon discharge as 
able.

#Agitation
Patient was initially very agitated and combative briefly 
requiring restraints. She was given 10 mg IM zyprexa in the ED. 
Her mental status cleared within 24 hours of admission. She 
became more alert and oriented prior to discharge though 
remained minimally engaged in history and physical exam. She was 
given 12.5mg of seroquel QHS during her hospital course. 
Benzodiazapines were avoided as these were felt to ___ worsen 
her agitation.

#Acute on chronic kidney injury: 
Cr 2.1 on admission with BUN/Cr ratio > 20 consistent with 
pre-renal process as well as low urine creatinine. Baseline 
creatinine around 2. Patient received 500 cc IV fluid bolus in 
the ED. Metolazone, lasix, and losartan also held initially. 
Renal function improved prior to discharge to 1.4 and 
metolazone, lasix, and losartan restarted prior to discharge. 

#Anemia of chronic disease: 
Hg/Hct on ___ 8.5/25.7 per ___ rehab. Patient with 
history of CKD and is on epoietin alfa. Her Hg/Hct remained 
stable throughout hospital course. 

#Hypertension
Ms. ___ atenolol and losartan were initially held at 
time of admission but restarted prior to discharge. 

#Congestive Heart Failure: 
Unknown if systolic or diastolic dysfunction. Patient Appeared 
compensated with no evidence of pulmonary edema on CXR at time 
of admission. Metolazone and lasix were held given acute kidney 
injury and poor PO intake. Metolazone and lasix were restarted 
at time of discharge. Wt on discharge was 95.8kg from 93.8 kg 
from admission.

#CAD  
-Continued aspirin 

#Depression:  
-Continued sertraline
 
#Hypothyroid  
-Continued levothyroxine  

TRANSITIONAL ISSUES:
=====================
-please check chem-7 to ensure kidney function stays stable on 
week of ___
-please wean down oxygen as able and patient recovers from 
influenza
-please consider alternate for patient's agitation other than 
lorazepam as this may in fact worsen her agiation/delirium and 
underlying dimentia
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 25 mg PO DAILY 
2. Ipratropium-Albuterol Neb 1 NEB NEB Q6H PRN wheeze 
3. Sertraline 125 mg PO DAILY 
4. Furosemide 60 mg PO DAILY 
5. Acetaminophen 650 mg PO Q6H:PRN pain 
6. Atenolol 25 mg PO DAILY 
7. Lorazepam 0.25 mg PO BID PRN agitation 
8. Metolazone 5 mg PO ___ 
9. Aspirin 81 mg PO DAILY 
10. GlipiZIDE XL 10 mg PO DAILY 
11. Glargine 9 Units Bedtime
novolin 2 Units Breakfast
novolin 2 Units Dinner
12. Levothyroxine Sodium 88 mcg PO DAILY 
13. Aranesp (in polysorbate) (darbepoetin alfa in polysorbat) 60 
mcg/0.3 mL injection q28d 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Aspirin 81 mg PO DAILY 
3. Atenolol 25 mg PO DAILY 
4. Glargine 9 Units Bedtime
novolin 2 Units Breakfast
novolin 2 Units Dinner
5. Ipratropium-Albuterol Neb 1 NEB NEB Q6H PRN wheeze 
6. Levothyroxine Sodium 88 mcg PO DAILY 
7. Losartan Potassium 25 mg PO DAILY 
8. Sertraline 125 mg PO DAILY 
9. Aranesp (in polysorbate) (darbepoetin alfa in polysorbat) 60 
mcg/0.3 mL injection q28d 
10. GlipiZIDE XL 10 mg PO DAILY 
11. Lorazepam 0.25 mg PO BID PRN agitation 
12. Furosemide 60 mg PO DAILY 
13. Metolazone 5 mg PO ___ 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Influenza A

Secondary:
Diabetes  
Coronary Artery Disease, MI ___  
Congestive heart failure
Hyperlipidemia
Hypothyroid  
Hypertension 
Osteoarthritis
Obesity  
Depression  
Anemia of chronic disease  
Gout  
Dementia  
Chronic Kidney disease  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital for cough and fever and found 
to have the flu. You were started on a medication called tamiflu 
to help treat your symptoms. It was a pleasure being involved in 
your care.

Sincerly,
Your ___ Team
 
Followup Instructions:
___